US06756378B2
To a stirred solution of the N-tert-butoxycarbonylproline (6.00 g, 0.0279 mol) in MeOH:benzene (1:4, v/v) was added dropwise 2.0 M-n-hexane solution of TMSCHN2 (16.7 mL, 0.0334 mol) at room temp. After the resulting solution was stirred for 1 hr at room temp, the mixture was evaporated off in vacuo to afford 6.39 g (100%) N-tert-butoxycarbonylproline methyl ester as a yellow syrup. 1H-NMR (CDCl3) δ1.41 (s, 9H), 1.85-1.98 (m, 4H), 2.21-2.28 (m, 2H), 3.72 (s, 3H), 4.29 (m, 1H).

reactant | N-tert-butoxycarbonylproline | 0.0279 mol, 6.00 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | n-hexane | CCCCCC | C6H14
reactant | TMSCHN2 | 0.0334 mol, 16.7 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH benzene | CO.C1=CC=CC=C1
product | N-tert-butoxycarbonylproline methyl ester | 6.39 g, 100% | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C11H19NO4
